US04088695
A mixture of 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile (20 g.), ethylene glycol (5.6 g.), p-toluenesulphonic acid (1 g.) and benzene (160 ml.) was heated to reflux for 31/2 hours with continuous removal of water. The mixture was cooled to ambient temperature, anhydrous sodium carbonate was added, and after filtration through a bed of sodium carbonate, the solvent was removed under reduced pressure. The residue was distilled under reduced pressure to give 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (19.3 g.), b.p. 166°-182° C./0.1 mm.Hg. This material was used as a starting material in the next stage, an aliquot being redistilled to b.p. 177°-179° C./0.1 mm.Hg for elemental analysis:

reactant | 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile | 20 g | OCCCCCCCC1C(CCC1=O)C#N | C13H21NO2
reactant | ethylene glycol | 5.6 g | C(CO)O | C2H6O2
catalyst | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 19.3 g | C(#N)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H25NO3
